US07199147B2
Under a nitrogen atmosphere, 1M-hydrochloric acid-diethyl ether (119 μl, 0.119 mmol) was added to a solution of {cis-3-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}methylamine (25.8 mg, 0.0995 mmol) in 2-propanol (1 ml) at room temperature. After 1 hour, the reaction solution was concentrated under reduced pressure and the resulting residue was crystallized from 2-propanol/diethyl ether to obtain {cis-3-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}methylamine hydrochloride (21.8 mg, 74%).

reactant | hydrochloric acid diethyl ether | 0.119 mmol, 119 μl | Cl.C(C)OCC
reactant | {cis-3-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}methylamine | 0.0995 mmol, 25.8 mg | CC1=C2C=NNC2=CC=C1O[C@H]1C[C@H](CCC1)CN | C15H21N3O
solvent | 2-propanol | 1 ml | CC(C)O | C3H8O
product | {cis-3-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}methylamine hydrochloride | 21.8 mg, 74% | Cl.CC1=C2C=NNC2=CC=C1O[C@H]1C[C@H](CCC1)CN | InChI=1S/C15H21N3O.ClH/c1-10-13-9-17-18-14(13)5-6-15(10)19-12-4-2-3-11(7-12)8-16;/h5-6,9,11-12H,2-4,7-8,16H2,1H3,(H,17,18);1H/t11-,12+;/m0./s1
